US05760041
A 15 ml portion of pyridine was added to 1.6 g of N-(3-bromophenyl)-4,6-quinazolindiamine and 0.6 g of maleic anhydride. After stirring overnight, the solvents were removed on the rotary evaporator. The solid was taken up in about 400 ml of hot ethanol and the insoluble material filtered to give 0.33 g of 4-[[4-[(3-Bromophenyl)amino]-6-quinazolinyl]amino]-4-oxo-(Z)-2-butenoic acid: mass spectrum (m/e): M+H 413, 415.

reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.6 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | maleic anhydride | 0.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[[4-[(3-Bromophenyl)amino]-6-quinazolinyl]amino]-4-oxo-(Z)-2-butenoic acid | 0.33 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(\C=C/C(=O)O)=O | C18H13BrN4O3
